US07465815B2
3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran
Using 2-(2-hydroxy-1-(4-isopropylphenyl)ethyl)-3,5-dimethylphenol synthesized in Reference Example 10, the title compound was synthesized in the same manner as in Reference Example 13. Yield 85%. Melting point: 46-47° C. (methanol).

reactant | 2-(2-hydroxy-1-(4-isopropylphenyl)ethyl)-3,5-dimethylphenol | OCC(C1=CC=C(C=C1)C(C)C)C1=C(C=C(C=C1C)C)O | C19H24O2
solvent | methanol | CO | CH4O
product | 3-(4-Isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran | Yield 85% | C(C)(C)C1=CC=C(C=C1)C1COC2=C1C(=CC(=C2)C)C | C19H22O
